US05064751
To a solution of 27 g of p-aminobenzoic acid in 100 ml of acetonitrile was slowly added drop-wise 25 ml of phenyl chloroformate under ice-cooling, followed by stirring at room temperature for 2 hours. To the solution was further added 16 ml of pyridine at room temperature, followed by stirring for 1 hour. After completion of the reaction, the reaction solution was poured into 1 l of ice-water to precipitate while crystals. The crystals were collected by filtration, washed twice with 50 ml of water, and dried to obtain 47 g of phenyl 4-carboxycarbanilide. Subsequently, the crystals were slowly added to a solution of 62 g of hydrazine hydrate (80%) in 50 ml of water while ice-cooling, and the mixture was stirred at room temperature for 3 hours. The reaction solution was adjusted to a pH of about 1 by addition of 100 ml of concentrated hydrochloric acid under ice-cooling to precipitate white crystals. The thus formed crystals were collected by filtration, washed once with 20 ml of water and then twice with 50 ml of methanol, and dried to obtain 29 g of 4-(4-carboxyphenyl)semicarbazide (melting point: 254-257° C.).

reactant | p-aminobenzoic acid | 27 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | phenyl chloroformate | 25 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hydrazine hydrate | 62 g | O.NN
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-carboxyphenyl)semicarbazide | 29 g | C(=O)(O)C1=CC=C(C=C1)NC(NN)=O | C8H9N3O3
